US04829076
2,6-Dimethyl-3-methoxycarbonyl-5-cyano-4-[2-(4-nitrobenzamido)-phenyl]-1,4-dihydropyridine
5-Cyano-2,6dimethyl-3-methoxycarbonyl-4-(2-aminophenyl)-1,4-dihydropyridine used as starting material is prepared by the following method: The solution of 0.8 g (2.5 mmoles) of 5cyano-2,6-dimethyl-3-methoxycarbonyl-4-(2-nitrophenyl)-1,4- (2-nitrophenyl-1,4-dihydropyridine (published German patent application No. 2,658,804) in 80 ml of methanol is submitted to hydrogenolysis in the presence of Pd-C at atmospheric pressure. After completed reduction the catalyst is filtered and washed with hot methanol. The solvent is evaporated and the residue is recrystallized from ethanol.

reactant | 5-Cyano-2,6dimethyl-3-methoxycarbonyl-4-(2-aminophenyl)-1,4-dihydropyridine | C(#N)C=1C(C(=C(NC1C)C)C(=O)OC)C1=C(C=CC=C1)N | C16H17N3O2
reactant | 2-nitrophenyl-1,4-dihydropyridine | [N+](=O)([O-])C1=C(C=CC=C1)N1C=CCC=C1 | C11H10N2O2
reactant | methanol | 80 ml | CO | CH4O
catalyst | Pd-C | [Pd] | Pd
product | 2,6-Dimethyl-3-methoxycarbonyl-5-cyano-4-[2-(4-nitrobenzamido)-phenyl]-1,4-dihydropyridine | CC=1NC(=C(C(C1C(=O)OC)C1=C(C=CC=C1)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C#N)C | C23H20N4O5
